US04061656
4,4-dimethoxy-3-methyl-but-1-en-3-ol
198 G. of 4,4-dimethoxy-3-methyl-but-1-yn-3-ol are dissolved in 960 ml. of high-boiling petroleum ether and, after the addition of 19.35% palladium catalyst and 19.3 g. of quinoline, hydrogenated under normal conditions. After the uptake of 33.5.1. of hydrogen, the hydrogenation is stopped. The catalyst is filtered off. The filtrate is evaporated under reduced pressure. The remaining 4,4-dimethoxy-3-methyl-but-1-en-3-ol boils, after rectification, at 70°-72° C./18 mm Hg.

reactant | 4,4-dimethoxy-3-methyl-but-1-yn-3-ol | COC(C(C#C)(O)C)OC | C7H12O3
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 4,4-dimethoxy-3-methyl-but-1-en-3-ol | COC(C(C=C)(O)C)OC | C7H14O3
